US08012956B2
To a solution of methyl 3-bromo-4-cyanobenzoate (200 mg, 0.83 mmol) in dichloromethane (1.5 mL) and methanol (1.5) was added 1.0 N aqueous sodium hydroxide (1.7 mL, 1.7 mmol). The mixture was stirred vigorously for 2 h at room temperature. The volatile solvents were then removed in vacuo. The aqueous residue was acidified with 1 N aqueous hydrochloric acid and was then extracted with ethyl acetate. The organic layer was dried over magnesium sulfate, filtered, and concentrated to provide 3-bromo-4-cyanobenzoic acid (190 mg, 0.83 mmol, quantitative yield). 1H NMR (400 MHz, CDCl3): 8.42 (d, 1H), 8.15 (dd, 1H), 7.80 (d, 1H).

reactant | methyl 3-bromo-4-cyanobenzoate | 0.83 mmol, 200 mg | BrC=1C=C(C(=O)OC)C=CC1C#N | C9H6BrNO2
reactant | sodium hydroxide | 1.7 mmol, 1.0 N, 1.7 mL | [OH-].[Na+]
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | 3-bromo-4-cyanobenzoic acid | 0.83 mmol, 190 mg, quantitative yield | BrC=1C=C(C(=O)O)C=CC1C#N | C8H4BrNO2
